US07557112B2
A mixture of 9.52 g of 4-chloro-2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine, 3.13 g of hexamethyleneimine, 10.50 ml of diisopropyl ethylamine and 190 ml of acetonitrile was stirred for 5 hours at 70° C. 600 ml of water was added to the reaction mixture and the precipitate was filtered, washed with water and dried at 50° C. under reduced pressure. The obtained solid was dissolved in 40 ml of THF. The solution was added to 15 ml of 4M HCl-EtOAc solution and concentrated under reduced pressure to give a solid. Through recrystallization of this solid from EtOH-ether, 10.97 g of 4-azepane-1-yl-2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine hydrochloride was obtained.

reactant | 4-chloro-2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine | 9.52 g | ClC=1C2=C(N=C(N1)C1=C(C=C(C(=C1)F)Cl)F)C=CS2 | C12H4Cl2F2N2S
reactant | diisopropyl ethylamine | 10.50 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetonitrile | 190 ml | C(C)#N | C2H3N
solvent | water | 600 ml | O | H2O
product | 4-azepane-1-yl-2-(4-chloro-2,5-difluorophenyl)thieno[3,2-d]pyrimidine hydrochloride | 10.97 g | Cl.N1(CCCCCC1)C=1C2=C(N=C(N1)C1=C(C=C(C(=C1)F)Cl)F)C=CS2 | InChI=1S/C18H16ClF2N3S.ClH/c19-12-10-13(20)11(9-14(12)21)17-22-15-5-8-25-16(15)18(23-17)24-6-3-1-2-4-7-24;/h5,8-10H,1-4,6-7H2;1H
